US07157463B2
8-(Piperazin-1-yl)isoquinoline (250 mg, 1.17 mmol) is dissolved in DCM (15 mL). Boc2O (1.02 g, 4.69 mmol) is added in one portion. The mixture is stirred for about 2 hours at r.t. and then concentrated. The residue is chromatographed on silica gel to give about 327 mg of 8-(4-t-butyloxycarbonyl-piperazin-1-yl)isoquinoline (89%).

reactant | 8-(Piperazin-1-yl)isoquinoline | 1.17 mmol, 250 mg | N1(CCNCC1)C=1C=CC=C2C=CN=CC12 | C13H15N3
reactant | Boc2O | 4.69 mmol, 1.02 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 8-(4-t-butyloxycarbonyl-piperazin-1-yl)isoquinoline | about 327 mg, 89% | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=CC=C2C=CN=CC12 | C18H23N3O2
